US06420375B1
Preparation of (E)-3-(6-methyl-2-naphthyl)-2-buten-1-ol
A solution of diisobutylaluminum hydride in toluene (1.5M, 30 ml) was added dropwise to a solution of ethyl (E)-3-(6-methyl-2-naphthyl)crotonate (3.62 g) in THF (50 ml) at −78° C. and the mixture was stirred at −78° C. for 15 minutes. Saturated aqueous solution of NH4Cl was added to the mixture and organic layer was washed with 1N HCl and brine, dried and concentrated. The residue was crystallized from hexane-cyclohexane gave the titled compound (2.54 g) as a colorless solid.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl (E)-3-(6-methyl-2-naphthyl)crotonate | 3.62 g | CC=1C=C2C=CC(=CC2=CC1)/C(=C/C(=O)OCC)/C | C17H18O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 1.5M, 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (E)-3-(6-methyl-2-naphthyl)-2-buten-1-ol | 2.54 g | CC=1C=C2C=CC(=CC2=CC1)/C(=C/CO)/C | C15H16O
